US05541194
(±) 3-[α-(Acetylamino)acetyl]-1-azabicyclo[2.2.2]octane (D15)
A suspension of the dihydrochloride salt of (±) 3-(α-aminoacetyl)-1-azabicyclo[2.2.2]octane (D14) (0.8 g; 0.0033 mole) in absolute chloroform (30 ml) was treated with acetyl chloride (0.76 g, 0.01 mole) and pyridine (4.58 g, 0.058 mole) at 0° C. for 1/2 h. The reaction was allowed to warm to room temperature for 15 h and then concentrated in vacuo. The residue was partitioned between chloroform and saturated aqueous potassium carbonate solution. The organic phase was separated, dried over sodium sulphate and concentrated in vacuo to a gum, which was chromatographed on neutral alumina in 10% methanol in ethyl acetate. This afforded the title compound as an oil (0.4 g, 58%).

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | (±) 3-(α-aminoacetyl)-1-azabicyclo[2.2.2]octane | 0.0033 mole, 0.8 g | NCC(=O)C1CN2CCC1CC2 | C9H16N2O
reactant | acetyl chloride | 0.01 mole, 0.76 g | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.058 mole, 4.58 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (±) 3-[α-(Acetylamino)acetyl]-1-azabicyclo[2.2.2]octane | 0.4 g, 58% | C(C)(=O)NCC(=O)C1CN2CCC1CC2 | C11H18N2O2
